US03968227
1,3-bis-[N'-Cyano-N"-(2-(5-methyl-4-imidazolylmethylthio) ethyl)guanidino]propane
Lead cyanamide (3.0 g) was added to 1,3-bis-[N'-(2-(5-methyl-4-imidazolylmethylthio)ethyl)thioureido] propane (2.5 g) in acetonitrile. Dimethylformamide was added and the mixture was stirred and boiled under reflux for 24 hours. The mixture was filtered, concentrated and purified by chromatography to give the title compound.

reactant | Lead cyanamide | 3.0 g | N#CN.[Pb]
reactant | 1,3-bis-[N'-(2-(5-methyl-4-imidazolylmethylthio)ethyl)thioureido] propane | 2.5 g | CC1=C(N=CN1)CSCCNC(NCCCNC(=S)NCCSCC=1N=CNC1C)=S | C19H32N8S4
reactant | Dimethylformamide | CN(C=O)C | C3H7NO
reactant | acetonitrile | C(C)#N | C2H3N
product | 1,3-bis-[N'-Cyano-N"-(2-(5-methyl-4-imidazolylmethylthio) ethyl)guanidino]propane | C(#N)N=C(NCCCNC(=NC#N)NCCSCC=1N=CNC1C)NCCSCC=1N=CNC1C | C21H32N12S2
